US04585774
8.28 Grams of potassium carbonate was dissolved in 50 ml of water-acetone (1:2), and to this solution was added 15.1 g of o-methoxycarbonylaniline. Under ice-cooled condition, an acetone solution of 34.4 g of [4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetylchloride was added dropwise thereto. After completion of the addition, the reaction was carried out at a room temperature for 3 hours, then acetone was removed by distillation. The residue obtained was extracted with chloroform, then the extract was washed with water, dried and chloroform was removed by distillation. The residue obtained was crystallized by adding ethyl acetate, and the crystals were collected by filtration. Recrystallized from ethanol to obtain 29 g o-methoxycarbonyl-α-[4-3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide in the form of colorless needle-like crystals. Melting point: 167.5°-169.0° C.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | o-methoxycarbonylaniline | 15.1 g | COC(=O)C1=C(N)C=CC=C1 | C8H9NO2
reactant | acetone | CC(=O)C | C3H6O
reactant | [4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetylchloride | 34.4 g | COC=1C=C(C(=O)N2CCN(CC2)CC(=O)Cl)C=CC1OC | C15H19ClN2O4
solvent | water acetone | 50 ml | O.CC(=O)C
product | acetanilide | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
